US05391751
A) trans-6-Chloro-4-(1,2-dihydro-2-oxopyrid-1-yl)-2,2-dimethylchroman-3-ol
Following the procedure of Example 3, 6-chloro-2,2-dimethyl-3,4-epoxychromane is prepared and reacted with 2-hydroxypyridine to give the expected product. Melting point: 250° C.

reactant | 6-chloro-2,2-dimethyl-3,4-epoxychromane | ClC=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C11H11ClO2
reactant | 2-hydroxypyridine | OC1=NC=CC=C1 | C5H5NO
product | trans-6-Chloro-4-(1,2-dihydro-2-oxopyrid-1-yl)-2,2-dimethylchroman-3-ol | ClC=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)N1C(C=CC=C1)=O | C16H16ClNO3
